US08609150B2
26.5 ml of n-butyllithium (1.57 mol/l hexane solution) was dropwise added at −78° C. to a solution having 4.02 g (39.8 mmol) of diisopropylamine dissolved in 70 ml of tetrahydrofuran, followed by stirring for 30 minutes. To this solution, a solution having 4.42 g (39.8 mmol) of 2-fluoro-5-methylpyridine dissolved in 18 ml of tetrahydrofuran was added, followed by stirring for 4 hours to prepare 2-fluoro-5-methyl-3-pyridyllithium. Then, to this solution, a solution having 10.1 g (39.8 mmol) of iodine dissolved in 27 ml of tetrahydrofuran was added, followed by stirring for 2 hours. 16 ml of water and 120 ml of a sodium thiosulfate aqueous solution were charged, followed by extraction with ethyl ether. The organic layer was dried over magnesium sulfate and subjected to filtration, the solvent was distilled off under reduced pressure, and the obtained crude product was purified by silica gel chromatography to obtain 3.15 g (yield: 33%) of 2-fluoro-3-iodo-5-methylpyridine.

reactant | n-butyllithium | 1.57 mol/l, 26.5 ml | C(CCC)[Li]
reactant | diisopropylamine | 39.8 mmol, 4.02 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-fluoro-5-methylpyridine | 39.8 mmol, 4.42 g | FC1=NC=C(C=C1)C | C6H6FN
reactant | 2-fluoro-5-methyl-3-pyridyllithium | FC1=NC=C(C=C1[Li])C
reactant | iodine | 39.8 mmol, 10.1 g | II | I2
reactant | sodium thiosulfate | 120 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
solvent | water | 16 ml | O | H2O
product | 2-fluoro-3-iodo-5-methylpyridine | 3.15 g, yield: 33% | FC1=NC=C(C=C1I)C | C6H5FIN
